US08754114B2
N-{3-[7-(1-{3-(Cyanomethyl)-1-[(dimethylamino)acetyl]azetidin-3-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 73, Step 4 starting from N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea and dimethylaminoacetyl chloride hydrochloride (Lancaster and Cat. No. L18475). LCMS (M+H)+: m/z=581.3.

reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | dimethylaminoacetyl chloride hydrochloride | Cl.CN(C)CC(=O)Cl
product | N-{3-[7-(1-{3-(Cyanomethyl)-1-[(dimethylamino)acetyl]azetidin-3-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CN(C1)C(CN(C)C)=O)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H27F3N10O2
